US06747023B1
4-[(6-Chloronaphthalen-2-yl)sulfonyl]-2-[(N-methyl)carbamoyl]-1-[(6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]piperazine hydrochloride
In N,N-dimethylformamide (100 ml), lithium 6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-carboxylate (616 mg), 4-[(6-chloronaphthalen-2-yl)sulfonyl]-2-[(N-methyl)carbamoyl]piperazine trifluoroacetate (1.12 g), 1-hydroxybenzotriazole monohydrate (36 mg) and 1-(dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (579 mg) were dissolved and the resulting solution was stirred overnight at room temperature. The reaction mixture was concentrated under reduced pressure. Dichloromethane was then added to the residue, followed by washing with water. The organic layer was dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column [Φ3.0×(1.5+8) cm, ethyl acetate:methanol=100:4], whereby a colorless foam was obtained. The resulting foam was dissolved in 1N HCl (20 ml), followed by concentration under reduced pressure, whereby the title compound (845 mg) was obtained as a pale yellow foam.

reactant | lithium 6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-carboxylate | 616 mg | CC1CC2=C(CN1)SC(=N2)C(=O)[O-].[Li+]
reactant | 4-[(6-chloronaphthalen-2-yl)sulfonyl]-2-[(N-methyl)carbamoyl]piperazine trifluoroacetate | 1.12 g | FC(C(=O)O)(F)F.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(NCC1)C(NC)=O
reactant | 1-hydroxybenzotriazole monohydrate | 36 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 579 mg | Cl.CN(C)CCCN=C=NCC
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | HCl | 1N, 20 ml | Cl | ClH
product | 4-[(6-Chloronaphthalen-2-yl)sulfonyl]-2-[(N-methyl)carbamoyl]-1-[(6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]piperazine hydrochloride | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(CC1)C(=O)C=1SC=2CNC(CC2N1)C)C(NC)=O | InChI=1S/C24H26ClN5O4S2.ClH/c1-14-9-19-21(12-27-14)35-23(28-19)24(32)30-8-7-29(13-20(30)22(31)26-2)36(33,34)18-6-4-15-10-17(25)5-3-16(15)11-18;/h3-6,10-11,14,20,27H,7-9,12-13H2,1-2H3,(H,26,31);1H
